US06642389B2
c] 2Z-Ethoxy-3-{7-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-indan-4-yl}-acrylic acid ethyl ester
1.39 g of 7-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-indan-4-carbaldehyde (4.00 mmol) and 1.89 g of (ethoxy-ethoxycarbonyl-methyl)-triphenyl-phosphonium chloride [Tetrahedron 50(25), 7543-56(1994)] (4.40 mmol) were dissolved in 9 ml of dichloromethane/2-propanol (1/1, v/v) under argon. This solution was cooled down to −10° C. and 855 mg of potassium carbonate (6.00 mmol) was added. The resulting suspension was stirred overnight and allowed to reach room temperature. Additional 1.89 g of (ethoxy-ethoxycarbonyl-methyl)-triphenyl-phosphonium chloride (4.40 mmol) were added, the solution was cooled down to −10° C. and 855 mg of potassium carbonate (6.00 mmol) were added. The resulting suspension was stirred for 60 hours and allowed to reach room temperature. Again, 1.89 g of (ethoxy-ethoxycarbonyl-methyl)-triphenyl-phosphonium chloride (4.40 mmol) were added, the solution was cooled down to −10° C. and 855 mg of potassium carbonate (6.00 mmol) were added. The resulting suspension was stirred overnight and allowed to reach room temperature. The mixture was filtered, washed with dichloromethane and the filtrate evaporated. The residue was dissolved in dichloromethane and washed with brine. Drying over magnesium sulfate, and evaporation of the solvents, followed by flash chromatography (silica gel, cyclohexane, then cyclohexane/ethylacetate=95/5, then cyclohexane/ethylacetate=4/1) left finally 1.215 g (65.8%) of 2Z-ethoxy-3-{7-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-indan-4-yl}-acrylic acid ethyl ester as beige crystals.

reactant | 7-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-indan-4-carbaldehyde | 4.00 mmol, 1.39 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(C=2CCCC12)C=O | C22H21NO3
reactant | (ethoxy-ethoxycarbonyl-methyl)-triphenyl-phosphonium chloride | 4.40 mmol, 1.89 g | [Cl-].C(C)OC(C(=O)OCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium carbonate | 6.00 mmol, 855 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (ethoxy-ethoxycarbonyl-methyl)-triphenyl-phosphonium chloride | 4.40 mmol, 1.89 g | [Cl-].C(C)OC(C(=O)OCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium carbonate | 6.00 mmol, 855 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (ethoxy-ethoxycarbonyl-methyl)-triphenyl-phosphonium chloride | 4.40 mmol, 1.89 g | [Cl-].C(C)OC(C(=O)OCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium carbonate | 6.00 mmol, 855 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane 2-propanol | 9 ml | ClCCl.CC(C)O
product | 2Z-Ethoxy-3-{7-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-indan-4-yl}-acrylic acid ethyl ester | C(C)OC(/C(=C/C1=C2CCCC2=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)/OCC)=O | C28H31NO5
